US06350756B1
The mixture of 2-benzothiazolol (320 mg, 2.1 mmol), potassium carbonate (910 mg, 6.6 mmol), ethyl bromoacetate (500 mg, 3.0 mmol) and acetone (25 ml) was refluxed for 15 h. After cooling, the mixture was filtered to remove potassium carbonate. The filtrate was concentrated under reduced pressure. To this residue, 10 ml of dioxane and 14 ml 5% sodium hydroxide solution were added. After the mixture was stirred at room temperature overnight, it was acidified with hydrochloric acid to pH 1, and then extracted three times with ethyl acetate (20 ml each). Organic phases were combined, washed with water and brine, dried over magnesium sulfate, filtered, and then evaporated in vacuo. The residue was recrystallized from ethanol and petroleum ether to give 290 mg benzothiazole-2-oxyacetic acid as white crystals, mp 168-170° C.

reactant | 2-benzothiazolol | 2.1 mmol, 320 mg | S1C(=NC2=C1C=CC=C2)O | C7H5NOS
reactant | potassium carbonate | 6.6 mmol, 910 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 3.0 mmol, 500 mg | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | benzothiazole-2-oxyacetic acid | 290 mg | S1C(=NC2=C1C=CC=C2)OCC(=O)O | C9H7NO3S
